### ISSUE TITLE
feat(Ch5 #Problem5.11.1-b): decompose A₅ representations induced from ℤ₃ (indZ3_triv, indZ3_nontriv)

### ISSUE THREAD

**Issue by kim-em** [mathlib-initiative/Etingof-RepresentationTheory-draft1#6624]
Decompose the representations of `A₅` induced from the irreducibles of `ℤ₃` (part **(b)** of
Problem 5.11.1), filling the two `sorry` proofs `indZ3_triv` and `indZ3_nontriv`.

## Current state

`EtingofRepresentationTheory/Chapter5/Problem5_11_1.lean` (`Etingof.Problem5_11_1` namespace)
formalizes all five induction problems with `sorry` proofs. Part **(a)** (`ℤ₂`) is fully proved
and is the model to follow:

```lean
theorem indZ2_sign (H : Subgroup A5) (hH : Nat.card H = 2)
    (σ : FDRep ℂ ↥H) [Simple σ] (hntriv : ∃ h : ↥H, σ.character h ≠ 1) :
    Nonempty (ind σ ≅ repC3plus ⊞ repC3plus ⊞ repC3minus ⊞ repC3minus ⊞ repC4 ⊞ repC4 ⊞ repC5 ⊞ repC5) := by
  classical
  apply Etingof.charEq_iso
  funext g
  rw [indZ2_sign_char_all H hH σ hntriv g, indZ2_sign_target_char_all g]
```

The two ℤ₃ theorems (currently `sorry`, ~lines 527 and 537) are:

```lean
theorem indZ3_triv (H : Subgroup A5) (hH : Nat.card H = 3)
    (σ : FDRep ℂ ↥H) [Simple σ] (htriv : ∀ h : ↥H, σ.character h = 1) :
    Nonempty (ind σ ≅ repTriv ⊞ repC3plus ⊞ repC3minus ⊞ repC4 ⊞ repC4 ⊞ repC5) := sorry

theorem indZ3_nontriv (H : Subgroup A5) (hH : Nat.card H = 3)
    (σ : FDRep ℂ ↥H) [Simple σ] (hntriv : ∃ h : ↥H, σ.character h ≠ 1) :
    Nonempty (ind σ ≅ repC3plus ⊞ repC3minus ⊞ repC4 ⊞ repC5 ⊞ repC5) := sorry
```

## Deliverables

1. Prove `indZ3_triv` sorry-free (`Ind_{ℤ₃}^{A₅} 1 ≅ 1 ⊕ 3 ⊕ 3' ⊕ 4² ⊕ 5`, dimension 20).
2. Prove `indZ3_nontriv` sorry-free (`Ind_{ℤ₃}^{A₅} ω ≅ Ind ω² ≅ 3 ⊕ 3' ⊕ 4 ⊕ 5²`, dimension 20).
3. Any supporting `indZ3_*_char_all` / `indZ3_*_target_char_all` helper lemmas needed, mirroring
   the `indZ2_*` helpers already in the file.

Do not weaken statements or change hypotheses. Keep all work inside `Problem5_11_1.lean` — do not
touch the other parts (c)/(d)/(e), which are separate future issues on the same file (avoid
same-file merge conflicts by leaving their `sorry`s untouched).

## Context

- The reduction route is `Etingof.charEq_iso` (`Chapter5/CharEqIso.lean`): a `FDRep ℂ A₅`
  isomorphism follows from equality of characters on all group elements. So each proof reduces to
  a character identity `char (ind σ) g = char (target) g` for all `g`.
- The **induced character formula** (Frobenius) and the ℤ₃ subgroup facts (all order-3 subgroups
  of `A₅` are conjugate Sylow-3 subgroups, `A₅` class data `1a,2a,3a,5a,5b`) are what compute
  `char (ind σ)`. Follow exactly how `indZ2_sign_char_all` / `indZ2_triv` (both proved in this
  file) evaluate the induced character class-by-class; the ℤ₃ case is the analogous computation
  with a 3-element cyclic subgroup meeting only the `1a` and `3a` classes.
- Target-biproduct characters use the already-established character-additivity-over-`⊞` machinery
  (`biprodProdEquiv`, `fdrep_hom_comm`, and the `*_target_char_all` pattern) near the top of the
  file, plus the `A₅` character table recorded in the module docstring.
- Read the blob `blobs/Chapter5/Problem5.11.1.md` first for the intended argument.

## Verification

- `lake exe cache get` before the first build.
- `lake build EtingofRepresentationTheory.Chapter5.Problem5_11_1` succeeds.
- `#print axioms Etingof.Problem5_11_1.indZ3_triv` and `...indZ3_nontriv` show no `sorryAx`.
- No sorried `def`/`instance`/`abbrev`; the other parts' `sorry`s may remain.

**Comment by kim-em** [comment]
Session: `6fee9bbf-3431-43e4-961f-81672e18cc10` Branch: `agent/6fee9bbf`

**Comment by kim-em** [comment]
Claimed by session `bbc458d3-f778-4a0d-b460-bae3edd9ba79` on branch `agent/bbc458d3`
